US05747513
A solution of (S)-N-propyl-5,6-dimethoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride (22 g; 76.9 mmoles), prepared as described in example 2, in 48% hydrobromic acid (220 ml) was heated under reflux (about 130° C.) for 3 hours. The solvent was evaporated to dryness under vacuum and the residue was taken twice with toluene, by evaporating to dryness each time. The resultant crude was collected with ethyl acetate and filtered obtaining (S)-N-propyl-5,6-dihydroxy-1,2,3,4-tetrahydro-2-naphthylamine hydrobromide (23 g). m.p. 219°-222° C. [α]D =-54.59° (1% in methanol)

reactant | (S)-N-propyl-5,6-dimethoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride | 76.9 mmoles, 22 g | Cl.C(CC)N[C@@H]1CC2=CC=C(C(=C2CC1)OC)OC
reactant | hydrobromic acid | 220 ml | Br | BrH
product | (S)-N-propyl-5,6-dihydroxy-1,2,3,4-tetrahydro-2-naphthylamine hydrobromide | 23 g | Br.C(CC)N[C@@H]1CC2=CC=C(C(=C2CC1)O)O | InChI=1S/C13H19NO2.BrH/c1-2-7-14-10-4-5-11-9(8-10)3-6-12(15)13(11)16;/h3,6,10,14-16H,2,4-5,7-8H2,1H3;1H/t10-;/m0./s1
